US04118742
Fifty grams (0.27 mole) of 4-chloro-3-nitrobenzyl alcohol, 250 ml. of methanol and 200 ml. of liquid ammonia were loaded into a cold autoclave. The autoclave was sealed and heated to a temperature of 150° C. The reaction was continued for 6 hours. After cooling the autoclave was vented and the reaction mixture was evaporated in vacuo. The residue was taken up in ether and the ether solution was filtered to separate the ammonium chloride. The ether filtrate was evaporated in vacuo to yield a solid product. The product was recrystallized from 2-B ethanol/ethyl acetate to give 23.6 g. (52 percent yield) of 4-amino-3-nitrobenzyl alcohol, mp. 100°-101° C.

reactant | 4-chloro-3-nitrobenzyl alcohol | 0.27 mole, Fifty grams | ClC1=C(C=C(CO)C=C1)[N+](=O)[O-] | C7H6ClNO3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-3-nitrobenzyl alcohol | 52 percent yield | NC1=C(C=C(CO)C=C1)[N+](=O)[O-] | C7H8N2O3
